US09212190B2
To a solution of 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol (120 mg, 0.35 mmol, 1.00 equiv) in distilled DMF (5 mL) was added 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one (75 mg, 0.51 mmol, 1.50 equiv) and potassium carbonate (26 mg, 0.19 mmol, 2.00 equiv) at room temperature. The resulting solution was stirred overnight at room temperature. The reaction mixture was diluted with DCM (100 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with methanol/DCM (1:10) to afford the desired 2-[(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)(methyl)amino]-1-(pyrrolidin-1-yl)ethan-1-one (130 mg, 82%) as a white solid. MS (ES): m/z 459 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 8.47 (1H, s), 5.32-5.20 (1H, m), 3.66 (2H, t), 3.58 (2H, t), 3.50-3.41 (3H, m), 3.37 (2H, s), 3.15-3.05 (1H, m), 3.00-2.92 (1H, m), 2.75-2.60 (2H, m), 2.37 (3H, s), 2.33-2.15 (4H, m), 2.03-1.88 (6H, m), 1.71-1.54 (4H, m).

reactant | 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 0.35 mmol, 120 mg, 1.00 equiv | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO | C18H25N3O2S
reactant | 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one | 0.51 mmol, 75 mg, 1.50 equiv | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | potassium carbonate | 0.19 mmol, 26 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)(methyl)amino]-1-(pyrrolidin-1-yl)ethan-1-one | 130 mg, 82% | OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(CC(=O)N1CCCC1)C | C24H34N4O3S
